US07888354B2
Preparation of 4-hydroxy-N-[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]benzamide
A suspension of 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-ylamine obtained in Example 29-(1) (0.191 g), 4-hydroxybenzoic acid (0.097 g), 1-hydroxybenzotriazole monohydrate (0.107 g) and 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride (0.18 g) in chloroform (6.4 mL) was stirred at room temperature for 4 days. The reaction mixture was concentrated under reduced pressure, and the residue was purified by NH-type silica gel column chromatography (eluting solvent: chloroform→chloroform:methanol=10:1) to give the titled compound (0.137 g) as a colorless amorphous substance.

reactant | 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-ylamine | C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1N=CC(=C1)N | C17H24N4O
reactant | 4-hydroxybenzoic acid | 0.097 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 1-hydroxybenzotriazole monohydrate | 0.107 g | O.ON1N=NC2=C1C=CC=C2
reactant | 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride | 0.18 g | Cl.CN(CCCN=C=NCC)C
solvent | chloroform | 6.4 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-hydroxy-N-[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]benzamide | 0.137 g | OC1=CC=C(C(=O)NC=2C=NN(C2)C2=CC=C(C=C2)OCCCN2[C@@H](CCC2)C)C=C1 | C24H28N4O3
